US07563787B2
To a solution of 4,6-dichloro-5-nitro-2-[(E)-2-phenylvinyl]pyrimidine (200 mg, 0.676 mmol) in THF (5 mL) was added triethylamine (204 mg, 2.03 mmol) and the reaction mixture was stirred for 15 minutes. 3-Amino-5-methyl-pyrazole (66 mg, 0.68 mmol) in THF (3 mL) was added dropwise to the reaction mixture. After 1 hour, N-methylpiperazine (74 mg, 0.74 mmol) in THF (3 mL) was added to the reaction mixture dropwise. The reaction mixture was stirred at room temperature for 1 hour followed by addition of water (10 mL). After stirring for 15 minutes, ethyl acetate (50 mL) was added. The organic layer was separated, dried and the solvent evaporated under reduced pressure. The residue was triturated with chloroform and hexane to obtain 6-(4-methylpiperazin-1-yl)-N-(3-methyl- 1H-pyrazol-5-yl)-5-nitro-2-[(E)-2-phenylvinyl]pyrimidin-4-amine (80 mg). 1H NMR (400 MHz, DMSO-d6): δ 12.35 (br, 1H), 10.52 (br, 1H), 7.95 (d, 1H, J=16 Hz), 7.83 (d, 2H, J=6.8 Hz), 7.5 (m, 3H), 7.11 (d, 1H, J=16 Hz), 6.8 (s, 1H), 3.65 (br, 4H), 2.5 (br, 4H), 2.36 (s, 3H), 2.29 (s, 3H). MS (m/z) 421 (M+1).

reactant | 4,6-dichloro-5-nitro-2-[(E)-2-phenylvinyl]pyrimidine | 0.676 mmol, 200 mg | ClC1=NC(=NC(=C1[N+](=O)[O-])Cl)\C=C\C1=CC=CC=C1 | C12H7Cl2N3O2
reactant | triethylamine | 2.03 mmol, 204 mg | C(C)N(CC)CC | C6H15N
reactant | 3-Amino-5-methyl-pyrazole | 0.68 mmol, 66 mg | NC1=NNC(=C1)C | C4H7N3
reactant | N-methylpiperazine | 0.74 mmol, 74 mg | CN1CCNCC1 | C5H12N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
product | 6-(4-methylpiperazin-1-yl)-N-(3-methyl- 1H-pyrazol-5-yl)-5-nitro-2-[(E)-2-phenylvinyl]pyrimidin-4-amine | 80 mg | CN1CCN(CC1)C1=C(C(=NC(=N1)\C=C\C1=CC=CC=C1)NC1=CC(=NN1)C)[N+](=O)[O-] | C21H24N8O2
